US07485283B2
A solution of 5-(1,1-dimethylethyl)dimethylsilyloxynona-1,8-diyne (1.80 g, 10 mmol) in THF (10 mL) is stirred at −78° C. while a solution of n-butyllithium (2.0M in hexanes, 4.95 mL) is added. The mixture is stirred for ten minutes at −78 degrees C. and boron trifluoride etherate (9.9 mmol, 1.25 mL) is added. After another thirty minutes stirring at −78° C., a solution of 5-formyl-octahydro-5′-(1-methoxymethoxy undecyl)-[2.2′]-bifuran (1.35 g, 3.5 mmol) in THF (8 mL) is added. The resulting solution is stirred at −78° C. for four hours, and is poured into an aqueous solution of NH4Cl (100 mL, 2.0 M). The mixture is extracted with ethyl acetate (3×100 mL) and the combined organic fractions are washed (1× water), filtered, (saturated aqueous NaCl, sodium sulfate) and concentrated. Chromatography (hexane-2:1 hexane:ethyl acetate gradient over silica gel 230-400 mesh) affords 5-(1,1-dimethylethyl)dimethylsilyloxy-10-methoxymethoxy-10-[octahydro-5′-(1-hydroxyundecyl) [2.2′-bifuran]-5-yl]deca-1,8-diyne as an oil.

reactant | 5-(1,1-dimethylethyl)dimethylsilyloxynona-1,8-diyne | 10 mmol, 1.80 g | CC(C)(C)C(CCC#CO[SiH](C)C)CCC#C | C15H26OSi
reactant | n-butyllithium | 2.0M, 4.95 mL | C(CCC)[Li]
reactant | boron trifluoride etherate | 9.9 mmol, 1.25 mL | B(F)(F)F.CCOCC
reactant | 5-formyl-octahydro-5′-(1-methoxymethoxy undecyl)-[2.2′]-bifuran | 3.5 mmol, 1.35 g | C(=O)C1CCC(O1)C1OC(CC1)C(CCCCCCCCCC)OCOC | C22H40O5
reactant | NH4Cl | 2.0 M, 100 mL | [NH4+].[Cl-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 5-(1,1-dimethylethyl)dimethylsilyloxy-10-methoxymethoxy-10-[octahydro-5′-(1-hydroxyundecyl) [2.2′-bifuran]-5-yl]deca-1,8-diyne | CC(C)(C)C(CCC#CO[SiH](C)C)CCC#CC(C1CCC(O1)C1OC(CC1)C(CCCCCCCCCC)O)OCOC | C37H66O6Si
